US06642264B1
3-Methylthiazolo[3,2-a]benzoimidazole
2-Mercaptobenzoimidazole (15.0 g) was added to EtOH (100 ml) solution of KOH (6.60 g), and the mixture was heated under reflux for 1 hour. After cooling to room temperature, this was mixed with 2-chloroacetone (7.96 ml) and stirred overnight. The reaction solution was mixed with EtOAc and stirred, the insoluble matter was removed by filtration and then the solvent was evaporated under a reduced pressure. The thus obtained oily material was dissolved in concentrated sulfuric acid (100 ml) and stirred at room temperature for 6 hours. The reaction solution was poured into ice water and then neutralized with 28% NH3 aqueous solution, and the resulting precipitate was collected by filtration. This was recrystallized from MeOH to obtain the title compound (9.60 g) as light brown crystals. (J. O. C., 29 (4), 865-9 (1964))

reactant | 2-Mercaptobenzoimidazole | 15.0 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | EtOH | 100 ml | CCO | C2H6O
reactant | KOH | 6.60 g | [OH-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Methylthiazolo[3,2-a]benzoimidazole | 9.60 g | CC1=CSC2=NC3=C(N21)C=CC=C3 | C10H8N2S
